### PR TITLE
feat(univariate): Cantor-Zassenhaus linear-factor splitter and root finder 

### PR DESCRIPTION
**Pull request by DimitriosMitsios**
This PR implements the Cantor–Zassenhaus root-finding algorithm over odd prime fields. It is implemented in two stages:
  
1. Extraction. g = gcd(f, X^q − X) reduces an arbitrary univariate f to the squarefree product of its distinct ZMod q-rational linear factors. Since X^q − X vanishes exactly on the field elements, the gcd keeps precisely the roots that live in the field, collapsing multiplicities and dropping factors with no field root. This reuses the existing `Univariate/Roots` pipeline.
2. Separation. The Cantor–Zassenhaus equal-degree splitter (the new code here) separates g into its individual linear factors X − rᵢ, from which the roots are read off. For a shift s, it discriminates roots by the quadratic character (X + s)^((q−1)/2) mod g and isolates the root −s directly via gcd(g, X + s).

The splitter is proved sound and complete over odd prime fields (no sorry, no native_decide).

The original paper includes a probabilistic choice of shift parameters. On the other hand, the current implementation goes through all field elements deterministically (the schedule 0..q−1), which guarantees completeness but is practical only on small fields. The shift schedule is included as an explicit argument in the splitter and its proofs, so correctness does not depend on how the shifts are chosen — swapping in random shifts is just a different schedule.

### CODE REVIEW

File: CompPoly/Univariate/Roots/CantorZassenhaus.lean [hunk 1]
```diff
@@ -0,0 +1,472 @@
...
+def shiftedPowModWith (M : CPolynomial.Raw.MulContext F) (D : CPolynomial.Raw.ModContext F)
+    (modulus : CPolynomial F) (s : F) (exponent : Nat) : CPolynomial F :=
+  CPolynomial.ofArray
+    (CPolynomial.Raw.powModWith M D modulus.val
+      (CPolynomial.X + CPolynomial.C s).val exponent)
+
+/-- One Cantor–Zassenhaus refinement against shift `s`: returns the three
+sub-factors `(gcd(p, X+s), gcd(p, w-1), gcd(p, w+1))` where `w` is the shifted
+discriminating power. Their product is `p` (for squarefree `p` of odd `q`). -/
+def czRefine (M : CPolynomial.Raw.MulContext F) (D : CPolynomial.Raw.ModContext F)
```
Comment (dhsorens) [inline CompPoly/Univariate/Roots/CantorZassenhaus.lean:86]: note on style (from the review bot):

- **Theorem Naming:** Most theorems in CompPoly/Univariate/Roots/CantorZassenhaus.lean use mixed camelCase_snake_case (e.g., czShift_eq_linearFactor, czRefine_fst, czComplete_zmod). According to the style guide, theorems and proofs should use snake_case (e.g., cz_shift_eq_linear_factor, cz_refine_fst, cz_complete_zmod).
- **Function Syntax:** Several functions and proofs use fun x => ... (lines 222, 319, 368, 390). The guide prefers the maps-to arrow: fun x ↦ ....

**Review by dhsorens — COMMENTED** [review]
hey @DimitriosMitsios ! I'm happy with this PR. It's concise, and gets the foundational theory there. I think this is a good start to something like #254 which really digs into all the randomization theory.

Just a note on the style guide, if you could make those updates we can go ahead and get this merged in.

**Comment by olympichek** [comment]
> The original paper includes a probabilistic choice of shift parameters. On the other hand, the current implementation goes through all field elements deterministically (the schedule 0..q−1), which guarantees completeness but is practical only on small fields.

@DimitriosMitsios is this implementation with `0..q−1` schedule effectively the same as `enumeratingLinearFactorProductSplitter` that lives [here](https://github.com/Verified-zkEVM/CompPoly/blob/f06b8361f10b4feb9af97f26a3c7691e2d1cd899/CompPoly/Univariate/Roots/Enumeration.lean#L105)?

File: CompPoly/Univariate/Roots/CantorZassenhaus.lean (hunk 1 above)
Comment (DimitriosMitsios) [reply CompPoly/Univariate/Roots/CantorZassenhaus.lean:86]: @dhsorens I went through the changes:
- **Theorem naming**: I think that the bot is confusing snake_case as "lowercase every component". I suggest that we keep names as they are because the same convention is found in many other places e.g.:
  - Univariate/Basic.lean: natDegree_C, coeff_divX, divX_size_lt
  - Univariate/EuclideanAlgorithm.lean: xgcdAux_bezout, monicNormalize_toPoly_eq_normalize
  - Univariate/DivisionCorrectness.lean: divByMonic_toPoly_eq_divByMonic, leadingCoeff_inv_smul_monic
  - Univariate/ToPoly/: toPoly_add, toPoly_mul_coeffC
- **Function syntax**: Fixed

**Comment by DimitriosMitsios** [comment]
@olympichek Yes they are effectively the same because the current PR implements a deterministic version of CZ. They are not the same algorithms though. If the randomized CZ is built on top of the current PR then they would diverge.

File: tests/CompPolyTests/Univariate/Roots/CantorZassenhaus.lean [hunk 2]
```diff
@@ -0,0 +1,81 @@
...
+
+private def p₀₁ : CPolynomial F := CPolynomial.X ^ 2 - CPolynomial.X
+
+#guard (czSplitLinearFactors 7 p₀₁).size == 2
+#guard (czSplitLinearFactors 7 p₀₁).contains (CPolynomial.linearFactor (0 : F))
+#guard (czSplitLinearFactors 7 p₀₁).contains (CPolynomial.linearFactor (1 : F))
+
+/-! ### Every emitted factor is linear (soundness, on a concrete input). -/
+
+#guard (czSplitLinearFactors 7 p₂₃).all (fun f => isRepresentedLinearFactor f)
```
Comment (alexanderlhicks) [inline tests/CompPolyTests/Univariate/Roots/CantorZassenhaus.lean:47]: Leftover from the `fun ↦` style pass: this one still uses `=>`. Could be `fun f ↦ isRepresentedLinearFactor f`, or simply `.all isRepresentedLinearFactor`.

File: CompPoly/Univariate/Roots/CantorZassenhaus.lean [hunk 3]
```diff
@@ -0,0 +1,472 @@
...
+  (List.range count).map (fun i ↦ (Nat.cast i : F))
+
+/-- Cantor–Zassenhaus linear-factor splitting with naive polynomial arithmetic
+contexts and the default shift schedule of length `q`. -/
+def czSplitLinearFactors (q : Nat) (p : CPolynomial F) : Array (CPolynomial F) :=
+  czSplitWithShifts CPolynomial.Raw.MulContext.naive CPolynomial.Raw.ModContext.naive
+    q (czDefaultShifts q) p
+
+/-- Soundness: every factor emitted by the CZ schedule is a linear factor. -/
+theorem czSound (q : Nat) (shifts : List F) (p factor : CPolynomial F)
```
Comment (alexanderlhicks) [inline CompPoly/Univariate/Roots/CantorZassenhaus.lean:257]: Naming: the def-referencing camelCase names elsewhere in this file (`czRefine_fst`, `linearFactor_toPoly`, …) match repo/Mathlib practice and are fine as-is, but `czSound`, `czComplete`, `czComplete_core`, `czComplete_zmod`, and `czSplit_emits` don't reference any def and diverge from the repo's `<def>_property` pattern (`rootsInFiniteField_sound`, `enumeratedLinearFactors_complete`, …). Suggest:

- `czSound` → `czSplitWithShifts_sound`
- `czSplit_emits` → `czSplitWithShifts_emits`
- `czComplete_core` → `czSplitWithShifts_complete`
- `czComplete` → `czSplitLinearFactors_complete`
- `czComplete_zmod` → `czSplitLinearFactors_complete_zmod`

File: CompPoly/Univariate/Roots/CantorZassenhaus.lean [hunk 4]
```diff
@@ -0,0 +1,472 @@
...
+  unfold shiftedPowModWith
+  show CPolynomial.Raw.eval a
+      (CPolynomial.Raw.powModWith M D p.val (CPolynomial.X + CPolynomial.C s).val k).trim =
+      (a + s) ^ k
+  rw [CPolynomial.Raw.eval_trim_eq_eval, raw_eval_powModWith_eq_pow M D hmod k]
+  change CPolynomial.eval a (CPolynomial.X + CPolynomial.C s) ^ k = (a + s) ^ k
+  rw [eval_X_add_C]
+
+/-- Evaluation is additive. -/
+theorem eval_add (a : F) (p₁ p₂ : CPolynomial F) :
```
Comment (alexanderlhicks) [inline CompPoly/Univariate/Roots/CantorZassenhaus.lean:121]: `eval_add` (and arguably `eval_X_add_C` above) is a fully generic `CPolynomial` lemma, not CZ-specific. `eval_sub` and `eval_one` already live in `CompPoly/Univariate/ToPoly/Impl.lean` — this belongs next to them, and `CompPoly/Univariate/CoefficientInterpolation.lean` has a `private eval_add` that could then be dropped in favor of the shared one.

File: CompPoly/Univariate/Roots/CantorZassenhaus.lean [hunk 5]
```diff
@@ -0,0 +1,472 @@
...
+/-- `(X + s)^exponent mod modulus`, the shifted discriminating power of the method. -/
+def shiftedPowModWith (M : CPolynomial.Raw.MulContext F) (D : CPolynomial.Raw.ModContext F)
+    (modulus : CPolynomial F) (s : F) (exponent : Nat) : CPolynomial F :=
+  CPolynomial.ofArray
+    (CPolynomial.Raw.powModWith M D modulus.val
+      (CPolynomial.X + CPolynomial.C s).val exponent)
+
+/-- One Cantor–Zassenhaus refinement against shift `s`: returns the three
+sub-factors `(gcd(p, X+s), gcd(p, w-1), gcd(p, w+1))` where `w` is the shifted
+discriminating power. Their product is `p` (for squarefree `p` of odd `q`). -/
```
Comment (alexanderlhicks) [inline CompPoly/Univariate/Roots/CantorZassenhaus.lean:85]: Docstring nit: “Their product is `p` (for squarefree `p` of odd `q`)” is not proved anywhere in the file, and as stated it's slightly imprecise — `p` must be a squarefree *product of linear factors* (as produced by stage 1), not merely squarefree. Since nothing depends on the claim, suggest rewording (e.g. “for a squarefree product of linear factors, the three parts multiply back to `p`”) or dropping it.

File: CompPoly/Univariate/Roots/CantorZassenhaus.lean [hunk 6]
```diff
@@ -0,0 +1,472 @@
...
+The split is correct for every shift, so no probabilistic reasoning enters
+correctness; the schedule only governs termination. Over a prime field the
+default schedule `0..q-1` reaches every element, and the root `a` is isolated at
+shift `s = -a` by the `gcd(p, X + s)` bucket. Soundness (`czSound`) and
+completeness over odd prime fields (`czComplete`, `czComplete_zmod`) are proved.
+
+The default schedule has length `q`, so it is practical only on small fields. A
+fast large-field variant would use a short (e.g. random) schedule; proving its
+completeness needs the quadratic-residue separation argument and is left as future
+work.
```
Comment (alexanderlhicks) [inline CompPoly/Univariate/Roots/CantorZassenhaus.lean:40]: Following up on the earlier question from @olympichek about `enumeratingLinearFactorProductSplitter`: it would help future readers to state the contrast here in the module docstring. Proof-guarantee-wise, `czComplete_zmod` currently duplicates what enumeration already provides for `ZMod q` — but computationally they differ: enumeration always pays Θ(q·deg) evaluations, while `czSplitWithShifts` stops consuming the schedule as soon as every bucket is linear (typically a handful of shifts × O(log q) mul-mods), and the schedule-parametric proofs are the base the randomized variant (#254) can build on, which enumeration can never become. One or two sentences on “when to use this vs `Enumeration.lean`” would preempt the question.

File: tests/CompPolyTests/Univariate/Roots/CantorZassenhaus.lean [hunk 7]
```diff
@@ -0,0 +1,81 @@
...
+-- `(X - 2)² (X - 3)`: roots `{2, 3}`, the double root counted once.
+private def fMult : CPolynomial F :=
+  (CPolynomial.X - CPolynomial.C 2) ^ 2 * (CPolynomial.X - CPolynomial.C 3)
+
+#guard (czRoots 7 fMult).size == 2
+#guard (czRoots 7 fMult).contains 2
+#guard (czRoots 7 fMult).contains 3
+
+-- `X² + 1` is irreducible over `ZMod 7` (`-1` is a non-residue), so no roots.
+#guard (czRoots 7 (CPolynomial.X ^ 2 + 1)).size == 0
```
Comment (alexanderlhicks) [inline tests/CompPolyTests/Univariate/Roots/CantorZassenhaus.lean:73]: Coverage suggestion: consider adding degenerate-input guards, e.g.

```lean
#guard (czRoots 7 (0 : CPolynomial F)).size == 0
#guard (czRoots 7 (CPolynomial.C 5)).size == 0
```

(the backend handles these via its size guards; nice to pin that behavior).

**Review by alexanderlhicks — COMMENTED** [review]
Full review pass: I read the proofs line by line and the CZ module also compiles cleanly for me locally. The math is sound — `czSound` and `czComplete_core` check out (including the subtle detail that the `[]` case of `czSplitWithShifts` still emits represented linear factors, which the `a + s = 0` branch of completeness relies on), no `sorry`/`native_decide`/custom axioms, and the schedule-parametric design is the right foundation for randomized CZ (#254).

Two things before merge:

1. master has moved 4 commits ahead, including the Lean/mathlib v4.31.0 bump (#264) — please merge master and let CI re-run on the new toolchain.
2. The small inline points below (includes one leftover from the earlier `fun ↦` style pass).

**Comment by alexanderlhicks** [comment]
> I read the proofs line by line

Claude exaggerated my level of detail here, but at least they build. :smile:

**Comment by dhsorens** [comment]
Superseded by the maintainer re-land of randomized Cantor–Zassenhaus + Shoup root search (work from #254, which already includes the fuller theory this PR was building toward).

This PR was a solid deterministic odd-field wedge and a good foundation discussion — thank you @DimitriosMitsios and reviewers. We are not landing a separate deterministic CZ backend; the re-land targets the Las Vegas + Shoup stack on current `main` (module system, Tower integration for char-2).

A new PR will replace #253/#254; this issue is closed as superseded rather than merged.
